US05929089
5-(8-Amino-7-chloro-2,3-dihydro-1,4-benzodioxin-5-yl)-3-[1-[[4-(trifluoromethyl)phenyl]methyl]piperidin-4-yl]-1,3,4-oxadiazol-2(3H)-one.
1.58 ml (11.38 mmol) of triethylamine and 0.88 g (5.68 mmol) of 4-(trifluoromethyl)benzyl bromide, in solution in 5 ml of acetonitrile, are successively added at room temperature, with magnetic stirring and under an argon atmosphere, to a solution of 1 g (2.84 mmol) of 5-(8-amino-7-chloro-2,3-dihydro-1,4-benzodioxin-5-yl)-3-(piperidin-4-yl)-1,3,4-oxadiazol-2(3H)-one in 60 ml of acetonitrile and the mixture is stirred for 2 h. The solvent is evaporated under reduced pressure, the residue is taken up in chloroform, the solution is washed a number of times with water and dried and the solvent is evaporated under reduced pressure. The residue is crystallized from acetone and 1.14 g of white solid are obtained. Melting point: 198° C.

reactant | triethylamine | 11.38 mmol, 1.58 ml | C(C)N(CC)CC | C6H15N
reactant | 4-(trifluoromethyl)benzyl bromide | 5.68 mmol, 0.88 g | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
reactant | 5-(8-amino-7-chloro-2,3-dihydro-1,4-benzodioxin-5-yl)-3-(piperidin-4-yl)-1,3,4-oxadiazol-2(3H)-one | 2.84 mmol, 1 g | NC1=C(C=C(C2=C1OCCO2)C2=NN(C(O2)=O)C2CCNCC2)Cl | C15H17ClN4O4
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | 5-(8-Amino-7-chloro-2,3-dihydro-1,4-benzodioxin-5-yl)-3-[1-[[4-(trifluoromethyl)phenyl]methyl]piperidin-4-yl]-1,3,4-oxadiazol-2(3H)-one | NC1=C(C=C(C2=C1OCCO2)C2=NN(C(O2)=O)C2CCN(CC2)CC2=CC=C(C=C2)C(F)(F)F)Cl | C23H22ClF3N4O4
